US07507733B2
Cyclopropylcarbamidine hydrochloride (7.61 g) was dissolved in ethanol (125 mL) and triethylamine (19.35 mL) and 2-chloro-acrylonitrile (5.52 mL) were added. The resulting orange-yellow solution was refluxed for 30 minutes. The mixture was cooled and left in a refrigerator over night. The solid was removed by filtration and the filtrate was concentrated in vacuo. The residue was purified by flash chromatography (ethyl acetate/methanol 9:1) to give 2-cyclopropyl-pyrimidin-4-ylamine (4.2 g) as a light brown solid that was still contaminated with an unidentified component, but used without further purification. 1H NMR (δ, DMSO-d6, product signals only): 7.88 (d, 1H), 6.64 (br s, 2H), 6.16 (d, 1H), 1.89-1.82 (m, 1H), 0.87-0.81 (m, 4H).

reactant | Cyclopropylcarbamidine hydrochloride | 7.61 g | C1CC1C(=N)N.Cl
reactant | triethylamine | 19.35 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-acrylonitrile | 5.52 mL | ClC(C#N)=C | C3H2ClN
solvent | ethanol | 125 mL | C(C)O | C2H6O
product | 2-cyclopropyl-pyrimidin-4-ylamine | 4.2 g | C1(CC1)C1=NC=CC(=N1)N | C7H9N3
